US08629169B2
Preparation 21: Bis(chloromethyl)(1S,2R,3S,4S,5R,6R)-2-(tert-butoxycarbonylamino)-3-[(4-fluoro-3-methyl-phenyl)sulfanylmethyl]-4-hydroxy-bicyclo[3.1.0]hexane-2,6-dicarboxylate
To a stirring mixture of (1S,2R,3S,4S,5R,6R)-2-(tert-butoxycarbonylamino)-3-[(4-fluoro-3-methyl-phenyl)sulfanylmethyl]-4-hydroxy-bicyclo[3.1.0]hexane-2,6-dicarboxylic acid (2.4 g, 5.27 mmol), tetra(n-butyl)ammonium bisulfate (178.90 mg, 526.89 μmoles), and sodium bicarbonate (3.54 g, 42.15 mmol) in dichloromethane (13.2 mL) and water (13.2 mL) is added chloromethyl chlorosulfate (1.20 mL, 11.59 mmol). The mixture is stirred at ambient temperature for 18 hours. The reaction is poured over water and extracted with dichloromethane. The combined organics are dried over magnesium sulfate, filtered and concentrated to give a residue. The residue is purified by flash chromatography (20-35% ethyl acetate/hexane) to give the title compound (1.37 g, 2.48 mmol, 47% yield). MS (m/z): 574.0 (M+Na).

reactant | (1S,2R,3S,4S,5R,6R)-2-(tert-butoxycarbonylamino)-3-[(4-fluoro-3-methyl-phenyl)sulfanylmethyl]-4-hydroxy-bicyclo[3.1.0]hexane-2,6-dicarboxylic acid | 5.27 mmol, 2.4 g | C(C)(C)(C)OC(=O)N[C@@]1([C@@H]2[C@H]([C@@H]2[C@@H]([C@H]1CSC1=CC(=C(C=C1)F)C)O)C(=O)O)C(=O)O | C21H26FNO7S
reactant | sodium bicarbonate | 42.15 mmol, 3.54 g | C([O-])(O)=O.[Na+]
reactant | chloromethyl chlorosulfate | 11.59 mmol, 1.20 mL | S(=O)(=O)(OCCl)Cl | CH2Cl2O3S
reactant | dichloromethane | 13.2 mL | ClCCl | CH2Cl2
catalyst | tetra(n-butyl)ammonium bisulfate | 526.89 μmoles, 178.90 mg | S([O-])(O)(=O)=O.C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | water | 13.2 mL | O | H2O
product | Bis(chloromethyl)(1S,2R,3S,4S,5R,6R)-2-(tert-butoxycarbonylamino)-3-[(4-fluoro-3-methyl-phenyl)sulfanylmethyl]-4-hydroxy-bicyclo[3.1.0]hexane-2,6-dicarboxylate | 2.48 mmol, 1.37 g, 47% yield | ClCOC(=O)[C@]1([C@@H]2[C@H]([C@@H]2[C@@H]([C@H]1CSC1=CC(=C(C=C1)F)C)O)C(=O)OCCl)NC(=O)OC(C)(C)C | C23H28Cl2FNO7S
